US04888439
N-(2,6,10,14,18-pentamethyl-22-oxo-2,6,10,14,18-tricosapentaenoyl)-tert-butylamine
Starting materials: 2,6,10,14,18-pentamethyl-22-oxo-2,6,10,14,18-tricosapentaenoic acid and tert-butylethylamine.

reactant | 2,6,10,14,18-pentamethyl-22-oxo-2,6,10,14,18-tricosapentaenoic acid | CC(C(=O)O)=CCCC(=CCCC(=CCCC(=CCCC(=CCCC(C)=O)C)C)C)C | C28H44O3
reactant | tert-butylethylamine | C(C)(C)(C)NCC | C6H15N
product | N-(2,6,10,14,18-pentamethyl-22-oxo-2,6,10,14,18-tricosapentaenoyl)-tert-butylamine | CC(C(=O)NC(C)(C)C)=CCCC(=CCCC(=CCCC(=CCCC(=CCCC(C)=O)C)C)C)C | C32H53NO2
